US09447046B2
Preparation 146b: 1-(aminomethyl)-N-methyl-N-phenyl-3,4-dihydro-1H-2-benzopyran-6-amine
2-{3-[Methyl(phenyl)amino]phenyl}ethan-1-ol (1.0 g, 4.4 mmol) was stirred in 4N HCl/dioxane (8 mL) at 0° C. Aminoacetaldehyde diethyl acetal (880 mg, 6.6 mmol) was added, and the reaction stirred for at r.t. for 1 h and then at 108° C. in the microwave for 1 h. The solution was concentrated and purified by silica gel chromatography (0% to 20% MeOH/DCM) to give 150 mg (13%) of the title compound as a yellow oil. [M+H] Calc'd for C17H20N2O, 269. Found, 269.

reactant | 2-{3-[Methyl(phenyl)amino]phenyl}ethan-1-ol | 4.4 mmol, 1.0 g | CN(C=1C=C(C=CC1)CCO)C1=CC=CC=C1 | C15H17NO
reactant | Aminoacetaldehyde diethyl acetal | 6.6 mmol, 880 mg | C(C)OC(CN)OCC | C6H15NO2
solvent | HCl dioxane | 4N, 8 mL | Cl.O1CCOCC1
product | 1-(aminomethyl)-N-methyl-N-phenyl-3,4-dihydro-1H-2-benzopyran-6-amine | 150 mg, 13% | NCC1OCCC2=C1C=CC(=C2)N(C2=CC=CC=C2)C | C17H20N2O
